US08748462B2
To (3-(5,5-dimethylcyclopent-1-enyl)-4-(5-fluoro-2-methoxypyridin-4-yl)phenyl)methanol T19.3 (34.5 mg, 105 μmol) was added DCM (1.1 mL) and DMF (8.2 μL, 105 μmol) followed by thionyl chloride (15 μL, 211 μmol) in an ice bath. The reaction was then stirred at room temperature for 1 hour. The reaction was concentrated and directly purified on silica gel to afford 4-(4-(chloromethyl)-2-(5,5-dimethylcyclopent-1-enyl)phenyl)-5-fluoro-2-methoxypyridine T19 (36 mg) as an oil (99%).

reactant | (3-(5,5-dimethylcyclopent-1-enyl)-4-(5-fluoro-2-methoxypyridin-4-yl)phenyl)methanol | CC1(CCC=C1C=1C=C(C=CC1C1=CC(=NC=C1F)OC)CO)C | C20H22FNO2
reactant | DMF | 105 μmol, 8.2 μL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 211 μmol, 15 μL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 1.1 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(chloromethyl)-2-(5,5-dimethylcyclopent-1-enyl)phenyl)-5-fluoro-2-methoxypyridine | ClCC1=CC(=C(C=C1)C1=CC(=NC=C1F)OC)C1=CCCC1(C)C | C20H21ClFNO
